US04889858
A solution of 5 g of 2-(dimethyl-t-butylsilyloxy)-6,11-dihydrodibenz[b,e]oxepin-11-one in 50 ml of methanol is cooled to 0° C. After adding 2 g of sodium borohydride and the mixture is stirred for 1 hour, 300 ml of chloroform is added and the mixture is washed with water and a saturated saline solution, followed by drying over magnesium sulfate. The solvent is distilled off under reduced pressure and the residue is subjected to silica-gel chromatography and eluted with toluene to give 4.1 g of 2-(dimethyl-t-butylsilyloxy)-6,11-dihydrodibenz[b,e]oxepin-11-ol (oil). Mass spectrum m/z: 342(M+).

reactant | 2-(dimethyl-t-butylsilyloxy)-6,11-dihydrodibenz[b,e]oxepin-11-one | 5 g | C[Si](OC1=CC2=C(OCC3=C(C2=O)C=CC=C3)C=C1)(C(C)(C)C)C | C20H24O3Si
reactant | sodium borohydride | 2 g | [BH4-].[Na+]
reactant | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 50 ml | CO | CH4O
product | 2-(dimethyl-t-butylsilyloxy)-6,11-dihydrodibenz[b,e]oxepin-11-ol | 4.1 g | C[Si](OC1=CC2=C(OCC3=C(C2O)C=CC=C3)C=C1)(C(C)(C)C)C | C20H26O3Si
